US07906546B2
130 mg (0.31 mmol) (RS,SR)-2-benzenesulfonyl-2-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-propionic acid methyl ester were dissolved in 7 mL CH2Cl2 at RT. 90 μL (0.62 mmol, 2 eq) triethylamine, 4 mg (0.031 mmol, 0.1 eq) DMAP and 81 mg (0.37 mmol, 1.2 eq) BOC2O were added. The reaction mixture was stirred for 2 hours. The reaction was quenched with 10 mL of an aqueous 1M solution of HCl. The organic layer was separated and the aquous layer was washed with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered and evaporated to dryness to yield to 152 mg (94%) (RS,SR)-2-(1-benzenesulfonyl-1-methoxycarbonyl-ethyl)-7-chloro-2,3-dihydro-1H-cyclopenta[b]indole-4-carboxylic acid tert-butyl ester as a white powder, M: 535 (MNH4+).

reactant | (RS,SR)-2-benzenesulfonyl-2-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-propionic acid methyl ester | 0.31 mmol, 130 mg | COC(C(C)(C1CC2=C(NC=3C=CC(=CC23)Cl)C1)S(=O)(=O)C1=CC=CC=C1)=O | C21H20ClNO4S
reactant | triethylamine | 0.62 mmol, 90 μL, 2 eq | C(C)N(CC)CC | C6H15N
reactant | BOC2O | 0.37 mmol, 81 mg, 1.2 eq | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.031 mmol, 4 mg, 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | (RS,SR)-2-(1-benzenesulfonyl-1-methoxycarbonyl-ethyl)-7-chloro-2,3-dihydro-1H-cyclopenta[b]indole-4-carboxylic acid tert-butyl ester | 152 mg, 94% | C(C)(C)(C)OC(=O)N1C2=C(C=3C=C(C=CC13)Cl)CC(C2)C(C)(C(=O)OC)S(=O)(=O)C2=CC=CC=C2 | C26H28ClNO6S
